US05098462
Following the procedures of Example 14, 2-acetylnicotinic acid chloride (1.0 g, 5.5 mmol) and morpholine (0.6 g, 6.7 mmol) are reacted together to give 4-(2-acetylnicotinyl)morpholine, which compound (1.0 g, 4.2 mmol) is then reacted with 4-(3-fluorophenyl)semicarbazide (0.7 g, 4.2 mmol) to give 4-(2-acetylnicotinyl)morpholine 4-(3-fluorophenyl)semicarbazone, m.p. 193°-195° compound 150).

reactant | 2-acetylnicotinic acid chloride | 5.5 mmol, 1.0 g | C(C)(=O)C1=C(C(=O)Cl)C=CC=N1 | C8H6ClNO2
reactant | morpholine | 6.7 mmol, 0.6 g | N1CCOCC1 | C4H9NO
product | 4-(2-acetylnicotinyl)morpholine | C(C)(=O)C1=C(CN2CCOCC2)C=CC=N1 | C12H16N2O2
